US07820825B2
A stirred solution 4-[(4-methyl-2-nitrophenylamino)methyl]benzoic acid methyl ester (7.0 g, 23 mmol,) in CH3OH was treated with 5% Pd/C (50% wet, 30% w/w) and hydrazine hydrate (5.8 g, 116 mmol). The reaction mixture was heated to reflux temperature for 2 h, cooled to room temperature and filtered through celite. The filtrate was evaporated to give a residue. The residue was dissolved in CH2Cl2, washed with water, dried over anhydrous Na2SO4 and evaporated to afford 4-[(2-amino-4-methylphenylamino)methyl]benzoic acid methyl ester, which was used in the next step without further purification. Yield: 93%. 1H NMR (400 MHz, CDCl3) 8.0 (d, J=8 Hz, 2H); 7.70 (d, J=8 Hz, 2H); 6.60 (m, 2H); 6.49 (d, 1H); 4.3 (s, 2H); 3.90 (d, 3H); 2.21 (s, 3H). LCMS (ESI+) 271 (MH+). A stirred solution of crude 4-[(2-amino-4-methylphenylamino)methyl]benzoic acid methyl ester (6 g, 22 mmol) in trimethylorthoformate was treated with formic acid (1.0 g), refluxed for 2 h, cooled to room temperature and evaporated under reduced pressure. The resultant residue was purified by column chromatography using 1% MeOH/CHCl3 to afford 4-[(5-methylbenzimidazol-1-yl)methyl]benzoic acid methyl ester Yield: 61%. 1H NMR (400 MHz, CDCl3): 8.0 (d, J=8 Hz, 1H); 7.93 (s, 1H); 7.62 (s, 1H); 7.26 (s, 1H); 7.21 (d, J=8 Hz, 2H); 7.08 (m, 2H); 5.39 (s, 2H); 3.90 (s, 3H); 2.47 (s, 3H). LCMS (ESI+) 281 (MH+).

reactant | 4-[(4-methyl-2-nitrophenylamino)methyl]benzoic acid methyl ester | 23 mmol, 7.0 g | COC(C1=CC=C(C=C1)CNC1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C16H16N2O4
reactant | hydrazine hydrate | 116 mmol, 5.8 g | O.NN
solvent | CH3OH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
product | 4-[(2-amino-4-methylphenylamino)methyl]benzoic acid methyl ester | Yield: 93% | COC(C1=CC=C(C=C1)CNC1=C(C=C(C=C1)C)N)=O | C16H18N2O2
